US04025542
Using the procedure of Example 2, acetyl methanesulfonate and tetroxane, in a molar ratio of 2:1, were reacted for 18-24 hours at 90° C. and 0.5 mm. pressure allowing the bis(acetoxymethyl) ether to distill. The residual oil was recrystallized from a small volume of dry tetrahydrofuran to give a 67% yield of CH3SO3CH2OCH2OSO2CH3.

reactant | acetyl methanesulfonate | CS(=O)(=O)OC(C)=O | C3H6O4S
reactant | tetroxane | O1OOOCC1 | C2H4O4
reactant | bis(acetoxymethyl) ether | C(C)(=O)OCOCOC(C)=O | C6H10O5
product | CH3SO3CH2OCH2OSO2CH3 | 67% yield | CS(=O)(=O)OCOCOS(=O)(=O)C | C4H10O7S2
